US08017792B2
Synthesis of 2-(5-bromo-2-chlorobenzyl)-1-benzothiophene
Then, Et3SiH (9.2 mL, 0.058 mol) and BF3.Et2O (3.6 mL, 0.029 mol) were added sequentially to a chloroform (110 mL) solution of (1-benzothien-2-yl)(5-bromo-2-chlorophenyl)methanol (10.2 g, 0.0288 mol) at −15° C. The reaction mixture was warmed to room temperature and stirred at the temperature for ten hours. After the reaction mixture was added with a saturated sodium bicarbonate aqueous solution, the organic phase was separated, washed with brine and then dried with anhydrous magnesium sulfate. After the desiccant was filtered off, the residue obtained by evaporating the solvent under reduced pressure was purified by silica gel column chromatography (hexane:ethyl acetate=60:1) to obtain a colorless oily title compound (5.5 g, 56%).

reactant | Et3SiH | 0.058 mol, 9.2 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | BF3.Et2O | 0.029 mol, 3.6 mL | B(F)(F)F.CCOCC
reactant | (1-benzothien-2-yl)(5-bromo-2-chlorophenyl)methanol | 0.0288 mol, 10.2 g | S1C(=CC2=C1C=CC=C2)C(O)C2=C(C=CC(=C2)Br)Cl | C15H10BrClOS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 110 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(5-bromo-2-chlorobenzyl)-1-benzothiophene | 5.5 g, 56% | BrC=1C=CC(=C(CC=2SC3=C(C2)C=CC=C3)C1)Cl | C15H10BrClS
